US06110929
Under a nitrogen atmosphere, a mixture of 3-amino-7-methyl-4-quinolinol (5 g, 28.7 mmol) and valeric anhydride (28 mL, 143.5 mmol) was heated at reflux for about 20 hours. The reaction mixture was allowed to cool to ambient temperature, then it was made basic with 10% sodium hydroxide and stirred for an additional hour at ambient temperature. The reaction mixture was extracted with dichloromethane. The extract was dried over magnesium sulfate and then concentrated under vacuum to provide a dark brown liquid. The liquid was purified by column chromatography (silica gel eluting with 3:2 ethyl acetate:dichloromethane) to provide 4.7 g of a dark brown, semi-solid. A portion (about 700 mg) was purified by column chromatography (silica gel eluting with 95:5 dichloromethane:methanol) to provide 2-butyl-7-methyloxazolo[4,5-c]quinoline, m.p. 52-55° C. Analysis: Calculated for C15H16N2O: % C, 74.97; % H, 6.71; % N, 11.66; Found: % C, 74.80; % H, 6.73; % N, 11.53.

reactant | 3-amino-7-methyl-4-quinolinol | 28.7 mmol, 5 g | NC=1C=NC2=CC(=CC=C2C1O)C | C10H10N2O
reactant | valeric anhydride | 143.5 mmol, 28 mL | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-butyl-7-methyloxazolo[4,5-c]quinoline | C(CCC)C=1OC2=C(C=NC=3C=C(C=CC23)C)N1 | C15H16N2O
